US07319103B2
9-(4-Benzyloxy-phenyl)-5,6,7,8-tetrahydro-pyrazolo[5,1-b]quinazoline
Using the method described for the preparation of 10-(4-benzyloxy-phenyl)-6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]indene, the reaction of 9-chloro-5,6,7,8-tetrahydro-pyrazolo[5,1-b]quinazoline and 4-benzyloxyphenyl boronic acid provided the title compound.

reactant | 10-(4-benzyloxy-phenyl)-6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]indene | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1N2N=CC=C2N=C2C1CCCCC2 | C24H23N3O
reactant | 9-chloro-5,6,7,8-tetrahydro-pyrazolo[5,1-b]quinazoline | ClC=1N2C(N=C3CCCCC13)=CC=N2 | C10H10ClN3
reactant | 4-benzyloxyphenyl boronic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)B(O)O | C13H13BO3
product | 9-(4-Benzyloxy-phenyl)-5,6,7,8-tetrahydro-pyrazolo[5,1-b]quinazoline | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1N2C(N=C3CCCCC13)=CC=N2 | C23H21N3O
